US04965259
2-Chloro-12-(3-chloropropyl)-12H-dibenzo[d,g][1,3,6]dioxazocine
A mixture of 14.9 g. (0.06 moles) of 2-chloro-12H-dibenzo[d,g][1,3,6]dioxazocine, 37.8 g. (0.24 moles) of 1-bromo-3-chloropropane, 19.6 g. (0.48 moles) of sodium hydroxide and 180 ml. of methyl ethyl ketone is stirred under reflux for 10 hours. Thereafter further 19.6 g. (0.48 moles) of sodium hydroxide are added and the stirring under reflux continued for 10 hours. The reaction mixture is cooled to 20° C. and poured to 300 g. of broken ice under stirring. 100 ml. of benzene are added, the organic phase is separated and the solvent is removed in vacuo. The residue is subjected to vacuum destillation. There are obtained 14.3 g. of a yellow viscous liquid, b.p./0.3 mmHg: 165° to 171° C. This liquid solidifies upon trituration with petrol ether. Recrystallization from isopropanol affords 12.5 g. (64.0%) of a white product, melting at 105° to 108° C.

reactant | 2-chloro-12H-dibenzo[d,g][1,3,6]dioxazocine | 0.06 moles | ClC1=CC2=C(OCOC3=C(N2)C=CC=C3)C=C1 | C13H10ClNO2
reactant | 1-bromo-3-chloropropane | 0.24 moles | BrCCCCl | C3H6BrCl
reactant | sodium hydroxide | 0.48 moles | [OH-].[Na+]
reactant | methyl ethyl ketone | C(C)C(=O)C | C4H8O
reactant | sodium hydroxide | 0.48 moles | [OH-].[Na+]
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 2-Chloro-12-(3-chloropropyl)-12H-dibenzo[d,g][1,3,6]dioxazocine | ClC1=CC2=C(OCOC3=C(N2CCCCl)C=CC=C3)C=C1 | C16H15Cl2NO2
